US06063804
Step A: 1,3-diphenyl-2-tert-butoxycarbonylmethyl-4,7-dihydro-2H-isoindole
The procedure is as in Example 6, using as substrate 4,5-dibenzoylcyclohexene (Preparation 2) and as the reagent tert-butyl 2-aminoacetate in the presence of acetic acid.

reactant | 4,5-dibenzoylcyclohexene | C(C1=CC=CC=C1)(=O)C1CC=CCC1C(C1=CC=CC=C1)=O | C20H18O2
reactant | tert-butyl 2-aminoacetate | NCC(=O)OC(C)(C)C | C6H13NO2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1,3-diphenyl-2-tert-butoxycarbonylmethyl-4,7-dihydro-2H-isoindole | C1(=CC=CC=C1)C=1N(C(=C2CC=CCC12)C1=CC=CC=C1)CC(=O)OC(C)(C)C | C26H27NO2
